US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXXXV)
In a similar fashion to Compound LXXVI, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (40.0 mg, 0.118 mmol) and 1-methyl-1H-pyrazole-4-carbaldehyde (14.3 mg, 0.130 mmol) were reacted to produce 23 mg (45%) of the title compound. mp: 255-258° C., 1H NMR (300 MHz, DMSO-d6): 11.99 (s, 1H), 7.99 (d, J=8 Hz, 1H), 7.96 (s, 1H), 7.72 (s, 1H), 7.19 (s, 1H), 6.88 (d, J=8 Hz, 1H), 6.49 (d, J=8 Hz, 1H), 6.35 (m, 2H), 5.30 (t, J=8 Hz, 1H), 4.34 (m, 1H), 3.97 (s, 2H), 3.02 (s, 4H), 2.87 (s, 1H), 2.74 (s, 1H), 2.61 (d, J=8 Hz, 1H), 2.26 (d, J=8 Hz, 1H), 1.38 (d, J=8 Hz, 1H). MS: 428, 430 (M+H), HPLC: 1.94 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.118 mmol, 40.0 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 1-methyl-1H-pyrazole-4-carbaldehyde | 0.130 mmol, 14.3 mg | CN1N=CC(=C1)C=O | C5H6N2O
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(1-methyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 23 mg, 45% | BrC=1C(=C2C(=NC1)NC(=N2)C=2C=NN(C2)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C18H18BrN7O
